US07638515B2
6-Chloro-1-[(1H-indazol-4-yl)amino]-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,5-diol
69.9 mg (0.159 mmol) of 6-chloro-1-[(1H-indazol-4-yl)amino]-5-methoxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-ol is mixed with 1.45 ml of a one-molar solution of BBr3 in dichloromethane, and it is stirred for five hours at room temperature. After the conventional working-up, the residue is chromatographed on a Flashmaster. 28.1 mg (41.5%) of the desired compound is isolated.

reactant | 6-chloro-1-[(1H-indazol-4-yl)amino]-5-methoxy-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-2-ol | 0.159 mmol, 69.9 mg | ClC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=NNC2=CC=C1)(O)C(F)(F)F)(C)C)OC | C21H21ClF3N3O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-Chloro-1-[(1H-indazol-4-yl)amino]-4,4-dimethyl-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalene-2,5-diol | 28.1 mg, 41.5% | ClC1=C(C=2C(CC(C(C2C=C1)NC1=C2C=NNC2=CC=C1)(O)C(F)(F)F)(C)C)O | C20H19ClF3N3O2
